US05294612
A solution of potassium hydroxide (0.24 g, 3.7 mmol) in water (10 ml) was stirred in an ice-bath for 30 minutes and 1-(4-cyanophenylmethyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-one (0.42 g, 1.2 mmol) was added, followed by 30% hydrogen peroxide (0.6 ml, 6.1 mmol). The reaction mixture was stirred for 4 hours, warmed to room temperature and stirred for 24 hours. The reaction mixture was filtered, and the filtrate was neutralized with acetic acid to afford a white precipitate. The product was collected by filtration and washed with water, ethanol and ether. The product was recrystallized in DMF to afford 0.2 g (46%) of 1-(4-carbamoylphenylmethyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one as a fluffy white powder, m.p. >300° C. when dried at 120° C. for 24 hours in high vacuum.

reactant | potassium hydroxide | 3.7 mmol, 0.24 g | [OH-].[K+]
reactant | 1-(4-cyanophenylmethyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-one | 1.2 mmol, 0.42 g | C(#N)C1=CC=C(C=C1)CN1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C19H14N6O
reactant | hydrogen peroxide | 6.1 mmol, 0.6 ml | OO | H2O2
solvent | water | 10 ml | O | H2O
product | 1-(4-carbamoylphenylmethyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | 0.2 g, 46% | C(N)(=O)C1=CC=C(C=C1)CN1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C19H16N6O2
